US04162325
17.1 g (0.075 mole) of N-(2-oxo-1-pyrrolidineacetyl)-glycine ethyl ester are dissolved in 350 ml of methanol. The solution is saturated with a current of ammonia (about 2 hours), stirring is maintained for 3 hours at ambient temperature. After the reaction mixture has been evaporated to dryness in vacuo, the residue crystallizes quickly, 14.9 g of 2-(2-oxo-1pyrrolidineacetamido)-acetamide being obtained (yield: 100% of theory); M.P. 147°-148° C.

reactant | N-(2-oxo-1-pyrrolidineacetyl)-glycine ethyl ester | 0.075 mole, 17.1 g | C(C)OC(CNC(CN1C(CCC1)=O)=O)=O | C10H16N2O4
reactant | ammonia | N | H3N
solvent | methanol | 350 ml | CO | CH4O
product | 2-(2-oxo-1pyrrolidineacetamido)-acetamide | 14.9 g, yield: 100% | O=C1N(CCC1)CC(=O)NCC(=O)N | C8H13N3O3
